US08664401B2
Step B) (2R)-2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[4-(1H-pyrazol-1-yl)phenyl]pyridin-1(2H)-yl}-N-(tetrahydro-2H-pyran-2-yloxy)butanamide
Trisdibenzylidine dipalladium (29 mg, 0.049 mmol) was added to a mixture of potassium carbonate (343 mg, 2.46 mmol), 1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1H-pyrazole (133 mg, 0.49 mmol) and (2R)-4-(4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (245 mg, 0.49 mmol), which may be synthesized as described in Preparation 2B in 1,2-dimethoxyethane-methanol (5.0 mL, 1:1). The reaction was heated to 80° C. and allowed to stir overnight. The reaction was diluted with ethyl acetate (10 mL), filtered through a pad of Celite, and concentrated under reduced pressure. The crude material was purified by flash chromatography (1:0-9:1 ethyl acetate/methanol) to provide a colorless residue (58 mg, 23%). MS (LCMS) m/z 513.7 (M−1).

reactant | potassium carbonate | 2.46 mmol, 343 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1H-pyrazole | 0.49 mmol, 133 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1N=CC=C1)C | C15H19BN2O2
reactant | (2R)-4-(4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.49 mmol, 245 mg | IC1=CC(N(C=C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O | C16H23IN2O6S
solvent | 1,2-dimethoxyethane methanol | 5.0 mL | COCCOC.CO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | (2R)-2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[4-(1H-pyrazol-1-yl)phenyl]pyridin-1(2H)-yl}-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 58 mg, 23% | C[C@](C(=O)NOC1OCCCC1)(CCN1C(C=C(C=C1)C1=CC=C(C=C1)N1N=CC=C1)=O)S(=O)(=O)C | C25H30N4O6S
